* C:\Users\ericz\Documents\ear_eeg\simulation\EEGSim.asc
V1 N011 N018 SINE(0 10u 30)
XU2 N004 N009 9V 0 N010 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 9V 0 9
XU1 N018 N015 9V 0 N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N010 N009 25k
R2 N009 N015 5
R3 N016 N015 25k
R4 N012 N010 40k
R5 N014 N016 40k
XU3 N014 N012 9V 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N013 N012 40k
R7 N017 N014 40k
XU4 N017 N020 9V 0 N020 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 9V N017 2k
R9 N017 0 2k
V3 N004 N011 SINE(0 0 60)
R10 N021 N020 110k
R11 N006 N017 10k
R12 N001 N006 110k
XU5 N008 N006 9V 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N008 N013 10k
R14 N002 N001 33k
XU6 N003 N005 9V 0 N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R15 N003 N002 33k
R16 N007 N005 1k
C1 N003 0 0.1µ
C2 N002 N005 0.1µ
XU7 N017 N019 9V 0 N022 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C3 N022 N019 1µ
R18 N019 N022 100
R17 N008 N022 10k
V4 N021 N011 SINE(0 0 60)
R19 N005 N019 10k
.tran 100m
.lib UniversalOpAmp1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
