* C:\Users\ericz\Documents\ear_eeg\simulation\EEGSim.asc
V1 N011 N015 SINE(0 10u 30)
XU2 N004 N009 9V 0 N010 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 9V 0 9
XU1 N019 N016 9V 0 N017 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N010 N009 25k
R2 N009 N016 5
R3 N017 N016 25k
R4 N012 N010 40k
R5 N014 N017 40k
XU3 N014 N012 9V 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N013 N012 40k
R7 N018 N014 40k
XU4 N018 N021 9V 0 N021 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 9V N018 2k
R9 N018 0 2k
V3 N004 N011 SINE(0 1m 60)
R10 N022 N021 110k
R11 N006 N018 10k
R12 N001 N006 110k
XU5 N008 N006 9V 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N008 N013 10k
R14 N002 N001 33k
XU6 N003 N005 9V 0 N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R15 N003 N002 33k
R16 N007 N005 1k
C1 N003 0 0.1µ
C2 N002 N005 0.1µ
XU7 N018 N020 9V 0 N023 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C3 N023 N020 1µ
R18 N020 N023 100
R17 N008 N023 10k
V4 N022 N011 SINE(0 1m 60)
R19 N005 N020 10k
V5 N019 N015 SINE(0 1m 60)
.tran 100m
.lib UniversalOpAmp1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
